US05330973
In a manner similar to that described in Example III, 0.68 ml of benzyl alcohol and 7 mg of p-toluenesulfonic acid are added to a solution of 350 mg of Compound Z-1(DMTD) in a mixture of 7 ml of tetrahydrofuran and 3 ml of dimethylformamide and the mixture stirred at room temperature for 24 hours. At the end the volatiles are removed in vacuo to obtain a residue which is purified on a preparative HPLC column using water/acetonitrile aseluant. The appropriate fractions are combined and lyophilized to obtain benzyl ether of Z-1(DMTD), molecular weight of 1168.

reactant | benzyl alcohol | 0.68 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid | 7 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
